US07018786B2
Synthesis of 1,5,6-trimethyluracil (TA-9)
6.00 g (42.9 mmol) 5,6-dimethyluracil was dissolved in 26 mL of hexamethyldisilazane and 2.1 mL DMF. The mixture was heated for 11 hours at 150° C. and the excess of hexamethyldisilazane was removed under reduced pressure. Toluene was added to the mixture and evaporated off under reduced pressure to remove any residual hexamethyldisilazane. The residue was dissolved in 25 mL of iodomethane, refluxed for 2 hours, the excess iodomethane then evaporated off under reduced pressure and the residue recrystallized from deionised water yielding after drying 5.76 g (87%) of 1,5,6-trimethyluracil (m.p. 254–257° C., lit. 256–258° C.).

reactant | 5,6-dimethyluracil | 42.9 mmol, 6.00 g | CC=1C(NC(NC1C)=O)=O | C6H8N2O2
reactant | hexamethyldisilazane | 26 mL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
solvent | DMF | 2.1 mL | CN(C)C=O | C3H7NO
product | 1,5,6-trimethyluracil | CN1C(=O)NC(=O)C(=C1C)C | C7H10N2O2
